US07414076B2
Preparation of 3-[4-(4-fluorophenyl)-1,2,3,6-tetrahydropyridin-1-yl]-1-propanesulfonic acid (Compound F)
To a solution of 4-(4-fluorophenyl)-1,2,3,6-tetrahydropyridine (1.96 g, 13.7 mmol) in acetone (30 mL) was added 1,3-propane sultone (1.74 g, 14.5 mmol). The mixture was stirred at reflux overnight. Only a small amount of compound precipitated. The resulting suspension was cooled to room temperature with stirring and a larger amount of solid precipitated. The suspension was heated with the addition of a small amount of MeOH until complete dissolution of the solid. The resulting solution was stirred at reflux for a few minutes and was cooled to room temperature with stirring. The solid was collected by filtration, washed with MeOH and dried in vacuo. This allowed the isolation of compound F, 1.33 g (32%).

reactant | 4-(4-fluorophenyl)-1,2,3,6-tetrahydropyridine | 13.7 mmol, 1.96 g | FC1=CC=C(C=C1)C=1CCNCC1 | C11H12FN
reactant | 1,3-propane sultone | 14.5 mmol, 1.74 g | C1COS(=O)(=O)C1 | C3H6O3S
solvent | acetone | 30 mL | CC(=O)C | C3H6O
product | 3-[4-(4-fluorophenyl)-1,2,3,6-tetrahydropyridin-1-yl]-1-propanesulfonic acid | FC1=CC=C(C=C1)C=1CCN(CC1)CCCS(=O)(=O)O | C14H18FNO3S
